US04228170
Trifluoroacetic anhydride (200 g.) was cooled and 26.6 g. (0.2 mole) of 1,2,3,4-tetrahydroisoquinoline was added dropwise. The solution was stirred at room temperature for three hours. The excess trifluoroacetic anhydride was distilled off at atomospheric pressure and the residue was distilled at 160° C. and 12 mm. to give 2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline.

reactant | Trifluoroacetic anhydride | 200 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1,2,3,4-tetrahydroisoquinoline | 0.2 mole | C1NCCC2=CC=CC=C12 | C9H11N
product | 2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline | FC(C(=O)N1CC2=CC=CC=C2CC1)(F)F | C11H10F3NO
